US04908384
Methyl 8-Hydroxy-9-(4-pentylphenoxy)-5-nonynoate
A solution of 3 g of 8-hydroxy-9-(4-pentylphenoxy)-5-nonynoic acid, the product of Example 7b, 40 ml of MeOH, 40 ml of toluene and 3 drops of BF3 ·Et2O was heated for 12 hr to reflux with a Dean Stark trap to remove water. Solvent was removed and the residue was dissolved in Et2O and was washed NaHCO3 solution and NaCl solution. The ether solution was dried over MgSO4 and removed solvent to give the title compound, an oil.

reactant | 8-hydroxy-9-(4-pentylphenoxy)-5-nonynoic acid | 3 g | OC(CC#CCCCC(=O)O)COC1=CC=C(C=C1)CCCCC | C20H28O4
reactant | MeOH | 40 ml | CO | CH4O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 8-Hydroxy-9-(4-pentylphenoxy)-5-nonynoate | OC(CC#CCCCC(=O)OC)COC1=CC=C(C=C1)CCCCC | C21H30O4
